US04838925
3-Bromo-6,8-dimethylimidazo[1,2-b]pyridazine
To a solution of 3.63 g (24.7 mmol) of 6,8-dimethylimidazo[1,2-b]pyridazine in 25 mL of chloroform was added 4.84 g (27.2 mmol) of N-bromosuccinimide. After 2 h, 1 mL of a saturated aqueous solution of sodium bicarbonate was added. The layers were separated. The organic layer was dried (Na2SO4) and the solvent was removed with a rotary evaporator. The residue was purified by flash chromatography to give 4.66 g of the title compound as a white solid, m.p. 137°-139° C.

reactant | 6,8-dimethylimidazo[1,2-b]pyridazine | 24.7 mmol, 3.63 g | CC=1C=C(C=2N(N1)C=CN2)C | C8H9N3
reactant | N-bromosuccinimide | 27.2 mmol, 4.84 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-6,8-dimethylimidazo[1,2-b]pyridazine | 4.66 g | BrC1=CN=C2N1N=C(C=C2C)C | C8H8BrN3
